US07544812B2
A mixture of 3-(4-benzyloxy-phenyl)-2-hydroxy-propionic acid (1.0 g, 3.67 mmol), cyclopentyl iodide (7.2 g, 36.7 mmol) and silver (I) oxide (4.25 g, 18.3 mmol) in DMF (15 mL) was heated at 55° C. under N2 for 72 h. The reaction mixture was cooled, diluted with Et2O and filtered through hyflo. The filtrate was extracted with water and the organic layer was dried (MgSO4) and the solvent removed in vacuo to afford crude product that was purified by flash chromatography using 10:1 hexanes:acetone to afford 0.255 g (17%) 3-(4-benzyloxy-phenyl)-2-cyclopentyloxy-propionic acid cyclopentyl ester. Rf=0.67 (1:1 hexanes:acetone). 1H NMR.

reactant | 3-(4-benzyloxy-phenyl)-2-hydroxy-propionic acid | 3.67 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)O)O | C16H16O4
reactant | cyclopentyl iodide | 36.7 mmol, 7.2 g | C1(CCCC1)I | C5H9I
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | Et2O | CCOCC | C4H10O
catalyst | silver (I) oxide | 18.3 mmol, 4.25 g | [Ag-]=O
product | 3-(4-benzyloxy-phenyl)-2-cyclopentyloxy-propionic acid cyclopentyl ester | 0.255 g, 17% | C1(CCCC1)OC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)OC1CCCC1)=O | C26H32O4
